US04209444
A mixture of 1.5 g of 9-oxo-15,15-ethylenedioxy-13-prostenoic acid methyl ester, 20 ml of trimethoxy-methane and 3 drops of concentrated H2SO3 is boiled for 6 hours. 15 ml of the solvent is distilled within 2 hours. The residue is diluted with 30 ml of diethyl ether, washed with aqueous saturated NaHCO3 solution and H2O and dried over MgSO4. The solvent is distilled. After chromatographic purification of the residue (silica gel/diisopropyl ether), 9,9-dimethoxy-15,15-ethylenedioxy-13-prostenoic acid methyl ester is obtained.

reactant | 9-oxo-15,15-ethylenedioxy-13-prostenoic acid methyl ester | 1.5 g | COC(CCCCCC[C@H]1C(CC[C@@H]1C=CC1(CCCCC)OCCO1)=O)=O | C23H38O5
reactant | trimethoxy-methane | 20 ml | COC(OC)OC | C4H10O3
product | 9,9-dimethoxy-15,15-ethylenedioxy-13-prostenoic acid methyl ester | COC(CCCCCC[C@H]1C(CC[C@@H]1C=CC1(CCCCC)OCCO1)(OC)OC)=O | C25H44O6
